US06514965B1
3(R,S)-tert-Butoxycarbonyl-8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one
An oven-dried flask was charged with 8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one (0.956 g, 5.00 mmol) and anhydrous THF (30 mL). 1.9 M LDA in heptane/THF/ethylbenzene (5.79 mL, 11.00 mmol) was added dropwise at −78° C. under argon. The reaction mixture was then allowed to warm to room temperature, stirred for 1.5 hrs and cooled to −78° C. again. A solution of di-tert-butyl dicarbonate (1.09 g, 5.00 mmol) in anhydrous THF (5 mL) was added dropwise through a syringe. After stirring the reaction mixture at −78° C. for 1.5 hrs, it was allowed to warm to ambient temperature, quenched with saturated aqueous solution of NH4Cl (5 mL) and evaporated to dryness under reduced pressure. The crude product was dissolved in dichloromethane, washed with water and dried over anhydrous Na2SO4. Purification by flash chromatography on silica column eluted with EtOAc/n-hexane (3:7-5:5) provided the desired compound (0.537 g, 53%) as white powder and recovered starting material (0.294 g, conversion 69%).

reactant | 8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one | 5.00 mmol, 0.956 g | COC1=CC2=C(CCCC(N2)=O)C=C1 | C11H13NO2
reactant | LDA | 1.9 M | [Li+].CC(C)[N-]C(C)C
reactant | heptane THF ethylbenzene | 11.00 mmol, 5.79 mL | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
reactant | di-tert-butyl dicarbonate | 5.00 mmol, 1.09 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3(R,S)-tert-Butoxycarbonyl-8-methoxy-2,3,4,5-tetrahydro-1H-1-benzazepine-2-one | 0.537 g, 53% | C(C)(C)(C)OC(=O)C1C(NC2=C(CC1)C=CC(=C2)OC)=O | C16H21NO4
